US04202894
21.8 G. of 3-(p-tert.-amyl-phenyl)-2-methyl-propionaldehyde and 11.3 g. of piperidine are heated at reflux in 15 ml. of toluene in a water-separator under nitrogen gasification until the water-cleavage has been completed (6 hours). Subsequently, there are added dropwise at room temperature with stirring 6.9 g. of formic acid, the temperature rising to 36°-40° C. Then, the mixture is heated to 75° C. for 2 hours, 50 Ml. of 2 N hydrochloric acid are added to the cooled solution. The toluene solution is separated. The aqueous-hydrochloric acid solution is made alkaline with 40 ml. of 6 N sodium hydroxide and the product is extracted with ether. The combined ether extracts are washed with water, dried over sodium sulfate and evaporated. By distillation, there is obtained pure 1-[3-(p-tert.-amyl-phenyl)-2-methyl-propyl]-piperidine having a boiling point of 160° C./0.15 Torr.

reactant | 3-(p-tert.-amyl-phenyl)-2-methyl-propionaldehyde | C(C)(C)(CC)C1=CC=C(C=C1)CC(C=O)C | C15H22O
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | formic acid | C(=O)O | CH2O2
solvent | water | O | H2O
product | 1-[3-(p-tert.-amyl-phenyl)-2-methyl-propyl]-piperidine | C(C)(C)(CC)C1=CC=C(C=C1)CC(CN1CCCCC1)C | C20H33N
